US04540697
34.1 g of 5-chloro-2-hydroxyacetophenone and 22 g of benzaldehyde were added to a mixture of 180 ml of H2O and 37 g of 50% strength sodium hydroxide solution at room temperature. The mixture was heated to 55°-60° C., with thorough stirring, and was stirred at this temperature for about 1 hour. It was then rendered weakly acid with 25% strength H2SO4 (about 100 ml), with thorough cooling, and the precipitate was filtered off with suction, washed thoroughly with H2O and recrystallized from a 9:1 mixture of methanol and acetone to give 38.7 g of 3-oxo-1-phenyl-3-(2'-hydroxy-5'-chlorophenyl)-propene of melting point 88°-90° C.

reactant | 5-chloro-2-hydroxyacetophenone | 34.1 g | CC(=O)C1=C(C=CC(=C1)Cl)O | C8H7ClO2
reactant | benzaldehyde | 22 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | H2SO4 | about 100 ml | OS(=O)(=O)O | H2O4S
solvent | H2O | 180 ml | O | H2O
product | 3-oxo-1-phenyl-3-(2'-hydroxy-5'-chlorophenyl)-propene | 38.7 g | O=C(C=CC1=CC=CC=C1)C1=C(C=CC(=C1)Cl)O | C15H11ClO2
